US08735588B2
Step A: Preparation of 2-chloro-5-methoxybenzenesulfonyl chloride
To a 3-neck flask equipped with a dry ice condenser was added acetic acid (80 mL) and copper chloride (0.8 g). The mixture was cooled to 0° C., sulfur dioxide (5 mL) was condensed into the reaction flask, and then the reaction mixture was stirred for 30 minutes. To a separate 200 mL round-bottom flask was added concentrated hydrochloric acid (32 mL), acetic acid (8 mL) and 2-chloro-5-methylaniline hydrochloride (3.2 g, 16 mmol). This mixture was cooled to 0° C., and sodium nitrite (1.25 g, 18.1 mmol) in water (8 mL) was added dropwise while keeping the temperature below 10° C. The reaction mixture was stirred for 30 minutes and then added dropwise to the sulfur dioxide solution. The resulting reaction mixture was stirred at room temperature for 1 h. Water was added dropwise, and a tan solid precipitated. The solid was isolated by filtration and washed with water to afford 2.5 g the title compound. 1H NMR (CDCl3) δ 7.64 (d, 1H), 7.52 (d, 1H), 7.17 (d, 1H), 3.89 (s, 3H).

reactant | sulfur dioxide | 5 mL | S(=O)=O | O2S
reactant | hydrochloric acid | 32 mL | Cl | ClH
reactant | 2-chloro-5-methylaniline hydrochloride | 16 mmol, 3.2 g | Cl.ClC1=C(N)C=C(C=C1)C
reactant | sodium nitrite | 18.1 mmol, 1.25 g | N(=O)[O-].[Na+]
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
solvent | water | 8 mL | O | H2O
catalyst | copper chloride | 0.8 g | [Cu](Cl)Cl
product | 2-chloro-5-methoxybenzenesulfonyl chloride | 2.5 g | ClC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C7H6Cl2O3S
